US06235771B1
To a solution of methyl 7-(4-isopropoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (250 mg) in 1,2-dimethoxyethane (10 ml) was added 6N hydrochloric acid (3 ml), and the mixture was stirred at 70° C. for 18 hours. To the mixture were added 1,2-dimethoxyethane (10 ml) and 6N hydrochloric acid (5 ml), and the mixture was stirred at 70° C. for 4 days, cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with saturated brine; dried with magnesium sulfate and concentrated under reduced pressure to give crystals, which were collected by filtration. The crystals were washed with hexane to give colorless crystals of 7-(4-isopropoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (230.3 mg).

reactant | methyl 7-(4-isopropoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 250 mg | C(C)(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C21H22O5S
reactant | hydrochloric acid | 6N, 3 ml | Cl | ClH
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 7-(4-isopropoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 230.3 mg | C(C)(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C20H20O5S
